US07087599B2
A solution of crude 2-butyl-5-methoxy-1-indanone (218 mg, 1 mmol) in tetrahydrofuran (THF, 2 mL) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 0.030 mL, 0.2 mmol) and ethyl vinyl ketone (EVK, 0.200 mL, 2 mmol). The resulting solution was stirred under a nitrogen atmosphere at room temperature for 16 hours, followed by heating in an oil bath at 60° C. for 24 hours. Evaporation of the solvent under vacuum left a residue that was shown by NMR to be approximately a 1:1 mixture of starting material and product. The residue was purified by preparative layer chromatography on three 0.1×20×20 cm silica gel GF plates using 5% EtOAc in CH2Cl2 as developing solvent. The product band was eluted with EtOAc to provide 2-butyl-5-methoxy-2-(3-oxo-pentyl)-1-indanone (84 mg) as an oil.

reactant | 2-butyl-5-methoxy-1-indanone | 1 mmol, 218 mg | C(CCC)C1C(C2=CC=C(C=C2C1)OC)=O | C14H18O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.2 mmol, 0.030 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl vinyl ketone | 2 mmol, 0.200 mL | C(=C)C(=O)CC | C5H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-butyl-5-methoxy-2-(3-oxo-pentyl)-1-indanone | 84 mg | C(CCC)C1(C(C2=CC=C(C=C2C1)OC)=O)CCC(CC)=O | C19H26O3
